US06335451B1
b) 4′-(2,4,5-Triphenylimidazol-1-ylmethyl)biphenyl-2-sulfonamide
1.9 g of 4′-(2,4,5-triphenylimidazol-1-ylmethyl)biphenyl-2-sulfonic acid dimethylaminomethylenamide in 20 ml of ethanol and 20 ml of a saturated aqueous HCl solution are refluxed for 3 h. The volatile constituents are removed in vacuo, the residue is stirred with 100 ml of water and the product is filtered off. 1.0 g of an amorphous powder is obtained.

reactant | 4′-(2,4,5-triphenylimidazol-1-ylmethyl)biphenyl-2-sulfonic acid dimethylaminomethylenamide | 1.9 g | CN(C)C=NS(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C37H32N4O2S
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | HCl | 20 ml | Cl | ClH
product | 4′-(2,4,5-Triphenylimidazol-1-ylmethyl)biphenyl-2-sulfonamide | 1.0 g | C1(=CC=CC=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N | C34H27N3O2S
